US08981111B2
To a solution of N-methylimidazole (10.0 g, 122 mmol) in acetonitrile (120 mL) was added benzoyl chloride (14.1 mL, 122 mmol) followed by triethylamine (17.0 mL, 122 mmol), while keeping the internal temperature at 5° C. The mixture was stirred 18 h at room temperature. After filtration, the filtrate was concentrated in vacuo, diluted with ethyl acetate (200 mL) and sequentially washed with sat. aq. sodium bicarbonate (150 mL), water (100 mL) and brine (100 mL). The organic layer was dried over MgSO4 and concentrated in vacuo.to afford (1-methyl-1H-imidazol-2-yl)(phenyl)methanone [21.0 g, yield 83%; HPLC/MS: m/z=187 (M+H); log P(HCOOH)=1.38].

reactant | N-methylimidazole | 122 mmol, 10.0 g | CN1C=NC=C1 | C4H6N2
reactant | benzoyl chloride | 122 mmol, 14.1 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 122 mmol, 17.0 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
product | (1-methyl-1H-imidazol-2-yl)(phenyl)methanone | 21.0 g, yield 83% | CN1C(=NC=C1)C(=O)C1=CC=CC=C1 | C11H10N2O
